US04483982
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
To a solution of 9.86 g. (50 mmoles) of N-methylsaccharin and 10.8 ml. of methyl chloroacetate (123.8 mmoles) in 50 ml. of dimethylsulfoxide was added at the rate of 0.15 ml./minute 9.2 g. (170 mmoles) of sodium methoxide in 30 ml. of methanol. After the addition was complete an additional 2.7 g. (50 mmoles) of sodium methoxide in 11 ml. of methanol was added at the same rate for a total addition time of about 6 hours.

reactant | N-methylsaccharin | 50 mmoles | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methyl chloroacetate | 123.8 mmoles | ClCC(=O)OC | C3H5ClO2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium methoxide | 170 mmoles | C[O-].[Na+]
reactant | sodium methoxide | 50 mmoles | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
